US05677324
2-(4-Fluorophenyl)ethyl Iodide
A mixture containing 2-(4-fluorophenyl)ethyl bromide (see Preparation 76) (10 g), sodium iodide (10 g) and acetone (200 ml) was stirred at room temperature for 20 hours then filtered. The filtrate was concentrated in vacuo to give the title compound as a colourless oil, 12 g.

reactant | 2-(4-fluorophenyl)ethyl bromide | 10 g | FC1=CC=C(C=C1)CCBr | C8H8BrF
reactant | sodium iodide | 10 g | [I-].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-(4-Fluorophenyl)ethyl Iodide | FC1=CC=C(C=C1)CCI | C8H8FI
